US09056873B2
Step A: tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(5-methylpyrazolo[1,5-a]pyridin-3-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a 25 mL reaction flask equipped with magnetic stir bar and thermometer was added tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.401 mmol) and 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyridine (124 mg, 0.481 mmol), followed by potassium carbonate (325 mesh powder) (111 mg, 0.802 mmol), DMA (6 mL), and water (0.400 mL). The mixture was stirred at room temperature for 3 min before degassing with vacuum and N2 back-fill (5×). To the resulting deep purple mixture was added Pd-118 (10.93 mg, 0.016 mmol). The reaction mixture was degassed again with vacuum and N2 back-fill (5×). The flask was wrapped tightly with plastic film, placed in an oil bath, and the reaction mixture was stirred at 80° C. for 18 hours. Solid N-acetyl cysteine (65.4 mg, 0.401 mmol) was added and the mixture was stirred at 70° C. for 2 h. The mixture was subsequently diluted with water and extracted with EtOAc (200 mL). The organic layer was dried and concentrated to give a residue, which was purified by preparative HPLC, eluting with a gradient of 55-80% ACN (0.035% TFA) and water (0.05% TFA). The fractions were collected to give, upon basic work-up, the title compound as a light yellow solid (110 mg, 46%).

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.401 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyridine | 0.481 mmol, 124 mg | CC1=CC=2N(C=C1)N=CC2B2OC(C(O2)(C)C)(C)C | C14H19BN2O2
reactant | potassium carbonate | 0.802 mmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-acetyl cysteine | 0.401 mmol, 65.4 mg | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | water | O | H2O
solvent | water | 0.400 mL | O | H2O
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
product | tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(5-methylpyrazolo[1,5-a]pyridin-3-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 110 mg, 46% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN3C1C=C(C=C3)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C31H39FN6O5
